US04281188
11.1 g (0.03 M) of 1-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-(2-hydroxyethyl)urea are stirred at room temperature for 18 hours in 150 ml of acetonitrile with 3.9 ml of acetyl chloride and 9 g of powdered potassium carbonate. The mixture is concentrated on a rotary evaporator and the residue is purified on a 500 g silica gel column using methylene chloride/ethanol as the eluting agent. After crystallisation from ethyl acetate, there is obtained 2-[3-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]ureido]ethyl acetate which melts at 196°-198° C.

reactant | 1-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-(2-hydroxyethyl)urea | 0.03 M, 11.1 g | FC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)NC(=O)NCCO)C)=O | C19H19FN4O3
reactant | acetyl chloride | 3.9 ml | C(C)(=O)Cl | C2H3ClO
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-[3-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]ureido]ethyl acetate | C(C)(=O)OCCNC(=O)NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1 | C21H21FN4O4
